US04235912
5 g (0.0146 moles) of 6-methyl-8β-mesyloxymethyl-ergoline are suspended in 25 ml of dry hydrazine distilled from sodium hydroxide. The suspension is refluxed under a nitrogen atmosphere on an oil bath heated to 150° C. for 20 minutes after the complete dissolution of the solids. In this operation atmospheric moisture should be excluded carefully. The mixture is cooled and allowed to stand in a refrigerator. The separated crystals are filtered off, washed with water, and then dried in vacuo. 2.8 g (71%) of 6-methyl-8β-hydrazinomethyl-ergoline are obtained; m.p.: 171°-172° C., [α]D20 =-62.8° (c=0.2, in tetrahydrofuran).

reactant | 6-methyl-8β-mesyloxymethyl-ergoline | 0.0146 moles, 5 g | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)COS(=O)(=O)C | C17H22N2O3S
reactant | hydrazine | 25 ml | NN | H4N2
product | 6-methyl-8β-hydrazinomethyl-ergoline | 2.8 g, 71% | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)CNN | C16H22N4
